US06060477
7-(2-Methoxyethylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
In a similar manner to Example 38, reaction of 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.41 g) and methoxyethylamine (1.04 g) in ethanol (15 ml) for 48 hours yielded the title compound, 0.38 g. m.p. 193-4° C. (recrystallized twice from methanol).

reactant | 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.41 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | methoxyethylamine | 1.04 g | COCCN | C3H9NO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 7-(2-Methoxyethylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | COCCNC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C18H21N5O3
